US06150373
A solution of 20 g (86 mmol) of ethyl 4-chloro-2-methylthiopyrimidine-5-carboxylate in 250 ml of dichloromethane was cooled to 0° C. and treated slowly with 35 ml (281 mmol) of a 33% solution of methylamine in ethanol. After stirring for 30 minutes 150 ml of water were added and the phases were separated. The organic phase was dried over magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure to give 19 g (97%) of ethyl 4-methylamino-2-methylthiopyrimidine-5-carboxylate as a white solid.

reactant | ethyl 4-chloro-2-methylthiopyrimidine-5-carboxylate | 86 mmol, 20 g | ClC1=NC(=NC=C1C(=S)OCC)C | C8H9ClN2OS
reactant | methylamine | CN | CH5N
reactant | water | 150 ml | O | H2O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | ethyl 4-methylamino-2-methylthiopyrimidine-5-carboxylate | 19 g, 97% | CNC1=NC(=NC=C1C(=S)OCC)C | C9H13N3OS
